US08278318B2
Step 3: 5-{3-Fluoro-4-[(5S)-2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]dec-7-yl]phenyl}-N,N-dimethylpyridine-2-carboxamide
This compound was prepared by using procedures that were analogous to those described for the synthesis of Example 1, Step 8 starting from N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxamide and (5S)-7-(4-bromo-2-fluorophenyl)-2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one. LC/MS m/e 495.3 (M+H)+. 1H-NMR (400 MHz, DMSO-d6): 8.86 (1H, d, J=1.7 Hz), 8.15 (1H, dd, J=8.1, 2.3 Hz), 7.51-7.65 (3H, m), 7.12 (1H, t, J=8.9 Hz), 4.37 (1 H, d, J=3.1 Hz), 3.78 (1H, m), 3.71 (1H, m), 3.22-3.38 (3H, m), 3.06 (1H, d, J=11.7 Hz), 3.00 (3H, s), 2.97 (3H, s), 2.64-2.74 (2H, m), 2.18-2.27 (1H, m), 1.60-1.91 (8H, m), 1.39-1.51 (3H, m), 1.22-1.30 (2H, m).

reactant | N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxamide | CN(C(=O)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C14H21BN2O3
reactant | (5S)-7-(4-bromo-2-fluorophenyl)-2-(cis-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | BrC1=CC(=C(C=C1)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CCC1)F | C20H26BrFN2O2
product | 5-{3-Fluoro-4-[(5S)-2-(cis-4-hydroxycyclohexyl)-1-oxo-2,7-diazaspiro[4.5]dec-7-yl]phenyl}-N,N-dimethylpyridine-2-carboxamide | FC=1C=C(C=CC1N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CCC1)C=1C=CC(=NC1)C(=O)N(C)C | C28H35FN4O3
